US07592477B2
Step b) Formation of N-(3-dodec-1-ynylbenzyl)-N-[4-(trifluoromethyl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 3-dodec-1-ynylbenzaldehyde and 4-(trifluoromethyl)benzylamine gave the title compound (37%). M+(LC/MS(ESI)): 430.5. HPLC (Condition A), Rt: 4.82 min (HPLC purity 94.7%).

reactant | 3-dodec-1-ynylbenzaldehyde | C(#CCCCCCCCCCC)C=1C=C(C=O)C=CC1 | C19H26O
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-(3-dodec-1-ynylbenzyl)-N-[4-(trifluoromethyl)benzyl]amine | 37% | C(#CCCCCCCCCCC)C=1C=C(CNCC2=CC=C(C=C2)C(F)(F)F)C=CC1 | C27H34F3N
